US04376769
(A) 4-Fluoro-α-[(3-hydroxypropyl)amino]benzeneacetonitrile
to a cold solution (0° C.) of 30.2 g. of 3-amino-1-propanol dissolved in 161.2 ml of 2.5 N hydrochloric acid, add 19.8 g of sodium cyanide followed by a solution of 50.0 g of 4-fluorobenzaldehyde in 160 ml of methanol. Stir the reaction mixture at room temperature (20° C.) for twenty four (24) hours, then treat with 500 ml of water and extract with ethyl ether. Dry the ether extract over sodium sulfate and concentrate to an oily residue which subsequently crystallizes. Recrystallize from isopropyl ether to obtain thereby the title compound which melts at 69°-70° C.

reactant | 3-amino-1-propanol | NCCCO | C3H9NO
reactant | sodium cyanide | 19.8 g | [C-]#N.[Na+]
reactant | 4-fluorobenzaldehyde | 50.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | water | 500 ml | O | H2O
solvent | hydrochloric acid | 2.5 N, 161.2 ml | Cl | ClH
solvent | methanol | 160 ml | CO | CH4O
product | 4-Fluoro-α-[(3-hydroxypropyl)amino]benzeneacetonitrile | FC1=CC=C(C=C1)C(C#N)NCCCO | C11H13FN2O
